US05922868
3-Ethyl-1-(5-oxohexyl)-7-propylxanthine (melting point 81-82° C.) is prepared from 3-ethyl-7-propylxanthine and 1-chlorohexan-5-one.

reactant | 3-ethyl-7-propylxanthine | C(C)N1C(NC(C=2N(C=NC12)CCC)=O)=O | C10H14N4O2
reactant | 1-chlorohexan-5-one | ClCCCCC(C)=O | C6H11ClO
product | 3-Ethyl-1-(5-oxohexyl)-7-propylxanthine | C(C)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCCC(C)=O)=O | C16H24N4O3
